US08003004B2
Ethyl 2,2,3,4,4,4-hexafluorobutyl carbonate was prepared by combining 2,2,3,4,4,4-hexafluorobutan-1-ol (184 g, 1.012 moles, available from Lancaster Synthesis Ltd., Ward Hill, Mass.), triethylamine (102 g, 1.008 moles) and methyl-t-butyl ether (350 mL) in a 1-L round bottom flask that was maintained at a temperature between 5° C. and 15° C. with a CO2/water bath. To the stirred mix, ethylchloroformate (100 g, 0.92 moles) was added from a jacketed addition funnel that was maintained between 5° C. and 15° C. The ethylchloroformate was added over a period of 4 h. Once addition was complete, the reaction mixture was stirred for an additional 16 h and was allowed to warm to room temperature. Then 100 mL of distilled water was added to the reaction mixture. The organic phase was collected. The water phase was extracted twice with 100 mL portions of methyl t-butyl ether and all of the organic phases were combined. The organic phase was washed with a 100 mL portion of distilled water and a 100 mL portion of 1N HCl. The ether was removed by rotary evaporation. The remaining sample was purified by fractional distillation, using a concentric tube column. The product was analyzed by GC/MS.

reactant | 2,2,3,4,4,4-hexafluorobutan-1-ol | 1.012 moles, 184 g | FC(CO)(C(C(F)(F)F)F)F | C4H4F6O
reactant | triethylamine | 1.008 moles, 102 g | C(C)N(CC)CC | C6H15N
reactant | methyl-t-butyl ether | 350 mL | COC(C)(C)C | C5H12O
reactant | ethylchloroformate | 0.92 moles, 100 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | water | 100 mL | O | H2O
product | Ethyl 2,2,3,4,4,4-hexafluorobutyl carbonate | C(OCC)(OCC(C(C(F)(F)F)F)(F)F)=O | C7H8F6O3
